US05001137
In 20 ml of toluene is suspended 0.6 g of 60% sodium hydride, whereto 3 ml of 2-oxopyrrolidine is added. Under ice-cooling, 2.7 g of 2-(4-chlorobutyrylamino)-3-(2-thenoyl)pyridine is added thereto, and the mixture is stirred at room temperature for 1 hour. The mixture is poured into water, and the solvent of the toluene layer is distilled off. The residue is recrystallized from toluene-isopropyl ether to give 2-(2-oxopyrrolidin-1-yl)-3-(2-thenoyl)pyridine, m.p. 148°-150° C.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2-oxopyrrolidine | O=C1NCCC1 | C4H7NO
reactant | 2-(4-chlorobutyrylamino)-3-(2-thenoyl)pyridine | 2.7 g | ClCCCC(=O)NC1=NC=CC=C1C(C1=CC=CS1)=O | C14H13ClN2O2S
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-oxopyrrolidin-1-yl)-3-(2-thenoyl)pyridine | O=C1N(CCC1)C1=NC=CC=C1C(C1=CC=CS1)=O | C14H12N2O2S
